US07919628B2
1.00 g 1-amino-cyclopentanecarboxylic acid methyl ester hydrochloride, 0.698 g 1-hydroxy-2-naphthoic acid, 2.12 g HATU and 1.94 ml N,N′diisopropyl-ethylamine in 40 ml of dimethylformamide were stirred at 65° C. for 1 hour, followed by room temperature for 2 days. Water was added and the mixture was extracted with diethyl ether three times. The combined organic layers were dried with magnesium sulfate and concentrated in vacuo. Purification by flash chromatography on silica with heptane/ethyl acetate afforded 0.5 g of 1-[(1-Hydroxy-naphthalene-2-carbonyl)-amino]-cyclopentanecarboxylic acid methyl ester.

reactant | 1-amino-cyclopentanecarboxylic acid methyl ester hydrochloride | 1.00 g | Cl.COC(=O)C1(CCCC1)N
reactant | 1-hydroxy-2-naphthoic acid | 0.698 g | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | HATU | 2.12 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-[(1-Hydroxy-naphthalene-2-carbonyl)-amino]-cyclopentanecarboxylic acid methyl ester | 0.5 g | COC(=O)C1(CCCC1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O | C18H19NO4
